US09108969B2
Step B: Preparation of 3-Chloro-4-(1,3-difluoropropan-2-yloxy)benzoic Acid
To a solution of methyl 3-chloro-4-(1,3-difluoropropan-2-yloxy)benzoate (2.00 g, 7.56 mmol) in dioxane (15.11 mL) was added LiOH (1.0 M aq, 22.67 mL, 22.67 mmol). The reaction was stirred at 30° C. for 1.5 h in a 1 L round-bottomed flask. The reaction was cooled to room temperature and poured into 1 N HCl. A precipitate was formed and filtered by vacuum filtration to give the title compound (1.5 g) as a white solid. LCMS m/z=250.9 [M+H]+.

reactant | methyl 3-chloro-4-(1,3-difluoropropan-2-yloxy)benzoate | 7.56 mmol, 2.00 g | ClC=1C=C(C(=O)OC)C=CC1OC(CF)CF | C11H11ClF2O3
reactant | LiOH | 22.67 mmol, 1.0 M, 22.67 mL | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | dioxane | 15.11 mL | O1CCOCC1 | C4H8O2
product | 3-Chloro-4-(1,3-difluoropropan-2-yloxy)benzoic Acid | 1.5 g | ClC=1C=C(C(=O)O)C=CC1OC(CF)CF | C10H9ClF2O3
